US04612378
8.6 g of 6-chloro-2-mercapto-4-methylbenzothiazole are reacted with 4.4 g of maleic anhydride in 70% H2SO4 at 47°-50° as described in Example 1. The crude product is purified by reprecipitation from NaHCO3 solution. 6-Chloro-4-methylbenzothiazol-2-ylthiosuccinic acid of melting point 168°-171°, with decomposition, is obtained.

reactant | 6-chloro-2-mercapto-4-methylbenzothiazole | 8.6 g | ClC1=CC2=C(N=C(S2)S)C(=C1)C | C8H6ClNS2
reactant | maleic anhydride | 4.4 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 6-Chloro-4-methylbenzothiazol-2-ylthiosuccinic acid | ClC1=CC2=C(N=C(S2)C(C(=S)O)CC(=O)O)C(=C1)C | C12H10ClNO3S2
